US05248693
1 g of 2-(4-hydroxy-pent-1-yn-1-yl)-benzenesulfonamide is dissolved in 9 ml of pyridine and cooled to 5°, and 0.44 ml of acetic anhydride is added. The reaction mixture is stirred under argon at 5° for 14 hours and then at room temperature for a further 24 hours. The reaction mixture is then poured onto 100 ml of ice-cold 1N hydrochloric acid and extracted twice with 50 ml of ethyl acetate each time. The combined organic phases are washed twice with 20 ml of 1N hydrochloric acid each time, with 50 ml of water and with 30 ml of saturated sodium chloride solution, dried over magnesium sulfate, filtered off and concentrated by evaporation at 15 torr and 40°. The crude product is chromatographed on 80 g of silica gel (Merck ST 60, 40-63 μm). A 1/1 mixture of hexane and ethyl acetate is used as eluant. 2-(4-Acetoxy-pent- 1-yn-1-yl)-benzenesulfonamide is obtained in the form of a colourless oil. 1H-NMR (200 MHz, DMSO-d6): 7.90 (d, d, 1H); 7.48-7.63 (m, 3H); 7.22 (s, 2H); 5.01 (m, 1H); 2.82 (d, 2H); 2.05 (s, 3H); 1.33 (d, 3H).

reactant | 2-(4-hydroxy-pent-1-yn-1-yl)-benzenesulfonamide | 1 g | OC(CC#CC1=C(C=CC=C1)S(=O)(=O)N)C | C11H13NO3S
reactant | acetic anhydride | 0.44 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 9 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Acetoxy-pent- 1-yn-1-yl)-benzenesulfonamide | C(C)(=O)OC(CC#CC1=C(C=CC=C1)S(=O)(=O)N)C | C13H15NO4S
